US05401710
a) Methyl 2-acetylthio-3-methylbutanoate
Potassium tert-butoxide (20.4 g) was added portionwise with stirring and cooling to thiolacetic acid (13.85 g) in dry dimethylformamide (150 ml). Stirring was continued for five minutes, then methyl 2-bromo-3-methylbutanoate (32.3 g) was added with ice-cooling (about 10° C. internal temperature). After stirring at room temperature overnight, the reaction mixture was diluted with ether (about 1 liter), washed with water (3 times), dried over magnesium sulfate and run down under vacuum. The title product was obtained as an orange oil, 29.2 g (93%).

reactant | Potassium tert-butoxide | 20.4 g | CC(C)([O-])C.[K+]
reactant | thiolacetic acid | 13.85 g | S1C(=CC=C1)CC(=O)O | C6H6O2S
reactant | methyl 2-bromo-3-methylbutanoate | 32.3 g | BrC(C(=O)OC)C(C)C | C6H11BrO2
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | ether | about 1 liter | CCOCC | C4H10O
product | Methyl 2-acetylthio-3-methylbutanoate | C(C)(=O)SC(C(=O)OC)C(C)C | C8H14O3S
